US07759385B2
To prepare the dihydrochloride the non-polar diastereoisomer of {4-[4-(5-methoxy-1H-indol-3-yl)piperidine-1-yl]-1-phenylcyclohexyl}-dimethylamine (590 mg, 1.37 mmole) was dissolved in ethyl methyl ketone (7 ml) and chlorotrimethylsilane (435 μl, 3.4 mmole) was added. The solid thereby formed was filtered off and dried. The non-polar {4-[4-(5-methoxy-1H-indol-3-yl)piperidine-1-yl]-1-phenylcyclohexyl}-dimethylamine dihydrochloride was thereby obtained as a colourless solid with an m.p. of 224°-226° C. in a yield of 690 mg (100%)(Example 7).

reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
reactant | {4-[4-(5-methoxy-1H-indol-3-yl)piperidine-1-yl]-1-phenylcyclohexyl}-dimethylamine | 1.37 mmole, 590 mg | COC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C1CCC(CC1)(C1=CC=CC=C1)N(C)C | C28H37N3O
reactant | chlorotrimethylsilane | 3.4 mmole, 435 μl | Cl[Si](C)(C)C | C3H9ClSi
solvent | ethyl methyl ketone | 7 ml | CC(=O)CC | C4H8O
product | {4-[4-(5-methoxy-1H-indol-3-yl)piperidine-1-yl]-1-phenylcyclohexyl}-dimethylamine dihydrochloride | Cl.Cl.COC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C1CCC(CC1)(C1=CC=CC=C1)N(C)C | InChI=1S/C28H37N3O.2ClH/c1-30(2)28(22-7-5-4-6-8-22)15-11-23(12-16-28)31-17-13-21(14-18-31)26-20-29-27-10-9-24(32-3)19-25(26)27;;/h4-10,19-21,23,29H,11-18H2,1-3H3;2*1H
